US07241761B2
(a) 4-Quinolin-3-yl-piperazine-1-carboxylic acid tert.-butyl ester
Prepared in analogy to example 1.16 (a) from 3-bromoquinoline and piperazine-1-carboxylic acid tert-butyl ester. Chromatography (SiO2; cyclohexane/ethyl acetate 1/1), followed by crystallization from diethyl ether/cyclohexane yields the title product as a colorless solid.

reactant | 3-bromoquinoline | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-Quinolin-3-yl-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC2=CC=CC=C2C1 | C18H23N3O2
